US07135484B2
(cis)-5-(3-bromo-1,2,4-thiadiazol-5-yl)-1,2,3,3a,4,6a-hexahydrocyclopenta[c]pyrrole hydrochloride
3-Bromo-5-chloro-1,2,4-thiadiazole (Acros; 19.7 mg, 0.099 mmol) in 1-methyl-2-pyrrolidinone (0.2 mL) was treated with 0.1 mL of a solution of tris(dibenzylideneacetone)dipalladium(0) (8.6 mg, 0.02 mmol), triphenylarsine (11.5 mg, 0.08 mmol) and copper(I) iodide (1.8 mg, 0.02 mmol) in 1-methyl-2-pyrrolidinone (0.5 mL). The reaction mixture was then treated with the product from Example 4B (35 mg, 0.094 mmol) in 1-methyl-2-pyrrolidinone (0.1 mL). The reaction mixture was warmed to 60° C., stirred over night and then allowed to cool to room temperature. The mixture was diluted with CH2Cl2 and washed with 0.5 mL of 1.0N aqueous NaOH. The aqueous phase was extracted twice with 5 mL of CH2Cl2. All the organic phases were combined and filtered through a 900 mg silica gel cartridge (Alltech). The solvent was removed under reduced pressure and the residue was purified by reverse phase preparative HPLC (Waters Nova-Pak HR C18 6 m 60 25×100 mm, 50–95% MeCN/10 mM NH4OAc over 10 minutes at 40 mL/min) to provide the free base. The free base was dissolved in MeOH (0.3 mL) and treated with a 1.0M solution of HCl in diethyl ether (0.5 mL, 0.5 mmol). The solution was agitated at 40° C. for 16 hours resulting in the formation of a precipitate. The precipitate was triturated with diethyl ether (2×) and dried under reduced pressure to provide 20.9 mg (82%) of the title compound. 1H NMR (CD3OD) δ 2.82 (ddd, J=2.3, 4.2, 16.9 Hz, 1H), 3.18 (dd, J=5.2, 12.0 Hz, 1H), 3.21–3.26 (m, 1H), 3.34 (m, 1H), 3.40 (dd, J=3.1, 12.2 Hz, 1H), 3.47 (dd, J=8.3, 12.0 Hz, 1H), 3.53 (dd, J=8.7, 12.1, 1H), 3.89 (tt, J=2.7, 8.1 Hz, 1H), 6.69 (dd, J=2.3, 4.2 Hz, 1H); MS (ESI) m/z 272, 274 (M+H)+.

reactant | 3-Bromo-5-chloro-1,2,4-thiadiazole | 0.099 mmol, 19.7 mg | BrC1=NSC(=N1)Cl | C2BrClN2S
reactant | triphenylarsine | 0.08 mmol, 11.5 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | HCl | Cl | ClH
reactant | diethyl ether | 0.5 mmol, 0.5 mL | C(C)OCC | C4H10O
reactant | 1-methyl-2-pyrrolidinone | 0.2 mL | CN1C(CCC1)=O | C5H9NO
reactant | 1-methyl-2-pyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
reactant | 1-methyl-2-pyrrolidinone | 0.1 mL | CN1C(CCC1)=O | C5H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.3 mL | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 8.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper(I) iodide | 0.02 mmol, 1.8 mg | [Cu]I
product | (cis)-5-(3-bromo-1,2,4-thiadiazol-5-yl)-1,2,3,3a,4,6a-hexahydrocyclopenta[c]pyrrole hydrochloride | 20.9 mg, 82% | Cl.BrC1=NSC(=N1)C=1C[C@@H]2[C@@H](CNC2)C1 | InChI=1S/C9H10BrN3S.ClH/c10-9-12-8(14-13-9)5-1-6-3-11-4-7(6)2-5;/h1,6-7,11H,2-4H2;1H/t6-,7+;/m1./s1
